### ISSUE TITLE
Class-valued binders prove: Point#distance to Theorem

### ISSUE THREAD

**Issue by jessealama** [jessealama/lakatos#159]
The post-parity goal: `lakatos prove` reports Theorem, axioms [], for the driving example of #155 —

```
@ensures{nonNegative} ∀ (p q : Point) { 0 <= p.distance(q) }
```

on the Point class whose constructor rejects non-finite coordinates and normalizes -0, with readonly fields and body `Math.sqrt(dx * dx + dy * dy)`. When this issue was written the whole class was outside the model (see Status below for what has since landed):

```
$ npx lakatos prove Point.mts
{ ... "szs": "Inappropriate",
  "reason": "class-valued binder 'Point' is not yet modeled" }
```

## What this issue itself builds

The structural core — the interlocking pieces the thin-class epic will design together:

1. **Thin classes as structures**: Point becomes a Lean structure with immutable Float fields; the readonly TS fields map directly, no single-assignment analysis needed. (This is the representation work the emission epic already reserved for its post-parity successor; this issue is that epic's natural first rung — strictly simpler than offsetMonotone, which stays the prize: no string literals, no closed tables.)
2. **Constructor emission**: the ctor body (guards, throws, -0 normalization, field assignment) becomes `Point.construct : JsNumber → JsNumber → JsM Point`. Statements in the body are already in the modeled slice.
3. **Class binder desugaring** (the #155 contract, prover side):
   `∀ (x1 y1 : JsNumber), ∀ p, Point.construct x1 y1 = .ok p → φ p` — quantification over the full Float domain including NaN and infinities, no free finiteness hypotheses; `p` is the constructor's output, never a raw `mk` of the arguments, so the -0 normalization is part of the domain by construction. The fields' finiteness arrives as hypotheses from the ctor-succeeds desugaring: the guards in the constructor are literally the hypotheses the proof needs.
4. **Member calls on binder values**: `p.distance(q)` resolves to the emitted method def, receiver as first argument.

## Extracted prerequisites

The self-contained ingredients are their own issues, each landable independently:

- #182 — logical `||`/`&&`/`!` on boolean operands (the ctor's guard conditions; decided 2026-08-26: model them, don't rewrite the polyfill)
- #183 — `NaN` and `Infinity` as expression atoms (the ctor compares against both)
- #184 — `Object.is` as SameValue (the NaN guards and the -0 normalization go through it)
- #185 — `Math.sqrt` (exactly specified; `Float.sqrt` kernel-reducible; `Math.pow` stays refused per #98)
- #186 — the FloatFacts non-negativity chain (square, sum, sqrt) — the one prerequisite with no pipeline dependency; landable before the switchover

## Status (verified 2026-08-27)

The extracted prerequisites have all landed, and so has the class core (#129) and instance method calls (#130). Re-measuring against the real fixture:

- The Point class **emits, compiles, and reaches Lean**: the structure, readonly fields, the constructor with its infinity guards, NaN guards, `-0` normalization, parameter reassignment and throws, `Math.sqrt`, and method bodies. Items 1 and 2 above are done.
- The class-valued binder is still refused, unchanged: `class-valued binder 'Point' is not yet modeled`. Item 3 is this issue's remaining core, and its design is written and grilled to completion.
- Substituting a `number` binder to get past that refusal surfaces a **separate** gap: `distance(p: Point)` is refused with `unmapped TypeScript construct 'TypeReference'`. Parameters are modeled at `number` only, so the target method's own signature has no model. Filed as #219.

Item 4 is therefore two things, not one: resolving a call whose receiver is a binder, and admitting a parameter whose type is a class.

## Blocked by

- #219 — class-typed parameters have no model, so `distance(p: Point)` cannot be modeled

Closed prerequisites, kept for provenance: #152 (the emission switchover), #182, #183, #184, #185, #186.

**Comment by jessealama** [comment]
Unblocked as of 2026-08-27: every listed prerequisite is now closed — #152, #153, #182, #183, #184, #185, #186, and #200, plus #88 (builtin member calls), which landed the `Number.isFinite` this issue's constructor guard needs. GitHub reports `blocked_by: 0`.

## Verified baseline on current main

The driving example, written as this issue describes it — finite-rejecting constructor, `-0` normalization, readonly fields, `Math.sqrt` body:

```ts
export class Point {
  readonly x: number;
  readonly y: number;

  constructor(x: number, y: number) {
    if (!Number.isFinite(x) || !Number.isFinite(y)) {
      throw new RangeError("coordinates must be finite");
    }
    this.x = Object.is(x, -0) ? 0 : x;
    this.y = Object.is(y, -0) ? 0 : y;
  }

  /** @ensures{nonNegative} forall (p: Point, q: Point) { p.distance(q) >= 0 } */
  distance(q: Point): number {
    const dx = this.x - q.x;
    const dy = this.y - q.y;
    return Math.sqrt(dx * dx + dy * dy);
  }
}
```

```
$ tsc --strict --noEmit Point.mts        # exit 0
$ npx lakatos prove Point.mts
      "szs": "Inappropriate",
      "reason": "'Point#distance' could not be modeled: unmapped TypeScript construct 'ClassDeclaration' at 14:3"
```

One construct stands in the way. Everything inside the class now models: `Number.isFinite`, `!`, `||`, `Object.is`, `-0`, `Math.sqrt`, the arithmetic, the throwing guard. The remaining work is exactly items 1–4 of this issue's body, nothing upstream of them.

## Overlap to settle before starting

Items 1, 2, and 4 substantially restate two issues already written under the paused epic #123:

- **#129** (class core: structures, single-assignment constructors, getters) covers items 1–2.
- **#130** (instance method calls in models and property atoms) covers item 4.
- Item 3, the class-binder desugaring against the #155 contract, is unique to this issue.

Both are labelled `ready-for-agent`, but their baselines are stale: #129's "current behavior" is written in the deleted `ts.` grammar (`ts_def "Box" := ts.opaque["ClassDeclaration"](1, 7)`), which #153 removed. They need re-baselining against the plain-Lean emitter before anyone picks them up, and a decision on whether the Point path subsumes them or runs alongside the Amount path they were written for.

**Comment by jessealama** [comment]
## Re-baselined 2026-08-28: blockers clear, and the proof tail is now measured

#219 landed, so nothing blocks this issue. The six issues filed in the last day and a half (#227, #228, #230, #215, #217, #209) are classification-consistency gaps on degraded members and on `Object.is` type widening; none touches this shape.

Against `spec/fixtures/binder/accept/class-binder.ts` the refusal is unchanged and is the last one standing:

```
$ npx lakatos prove class-binder.ts
      "szs": "Inappropriate",
      "reason": "class-valued binder 'Point' is not yet modeled"
$ echo $?
0
```

## One correction to this issue's own driving example

The `Point` in the comment above spells the `-0` normalization as a ternary. That does not model, and the refusal it draws is not the binder one:

```
$ npx lakatos prove Point.mts        # with `this.x = Object.is(x, -0) ? 0 : x;`
      "szs": "Inappropriate",
      "reason": "'Point#distance' could not be modeled: unmapped TypeScript construct 'ConditionalExpression' at 9:14"
$ echo $?
0
```

Written as a statement the same normalization is inside the modeled slice, and the annotation reaches the binder refusal. Filed separately as #231; the fixture here will use the statement spelling, so the ternary is not on this issue's path.

## What the class actually emits today

Substituting a number binder to get past the refusal shows the whole class emitting, compiling, and reaching Lean — the guards, the throw, the `-0` normalization, `Math.sqrt`, the method:

```lean
structure TsModel.Point where
  x : JsNumber
  y : JsNumber

@[js_norm, grind]
def TsModel.Point.construct (x y : JsNumber) : JsM TsModel.Point := do
  let mut x := x
  let mut y := y
  if ((!Float.isFinite x) || (!Float.isFinite y)) then
    throw (JsError.error "RangeError")
  if Number.FloatOps.sameValue x (-0) then
    x := 0
  if Number.FloatOps.sameValue y (-0) then
    y := 0
  let «this.x» : JsNumber := x
  let «this.y» : JsNumber := y
  return TsModel.Point.mk «this.x» «this.y»

@[js_norm, grind]
def TsModel.Point.distance (self : TsModel.Point) (q : TsModel.Point) : JsM JsNumber := do
  let dx : JsNumber := TsModel.Point.x self - TsModel.Point.x q
  let dy : JsNumber := TsModel.Point.y self - TsModel.Point.y q
  return Float.sqrt (dx * dx + dy * dy)
```

## The proof tail, spiked against that model

The assumption in this issue's plan was that the proof tail is already closed, since the guard bridges and the non-negativity chain are both pinned green. Running the actual obligation says otherwise. Three findings, each verified.

**1. `grind` cannot invert a constructor-image hypothesis.** Given `TsModel.Point.construct «p.x» «p.y» = .ok p` it case-splits the definition, derives the guard conditions as hypotheses, and stalls without ever concluding `p = ⟨…⟩`. It stalls in the same place when the constructor is unfolded and its `if` is fully exposed in the hypothesis:

```
hp :
  (if Number.FloatOps.sameValue «p.x» (-0) = true then
      if Number.FloatOps.sameValue «p.y» (-0) = true then Except.ok { x := 0, y := 0 }
      else Except.ok { x := 0, y := «p.y» }
    else
      if Number.FloatOps.sameValue «p.y» (-0) = true then Except.ok { x := «p.x», y := 0 }
      else Except.ok { x := «p.x», y := «p.y» }) =
    Except.ok p
⊢ False
```

This is structural: `grind` does not case-split an `if` sitting in a hypothesis. Something has to do it first.

**2. Two monad bridges are missing, and both are `rfl`.** Neither `simp` nor `grind` knows either one:

```lean
theorem jsm_throw_bind {α β : Type} (e : JsError) (k : α → JsM β) :
    (throw e >>= k) = .error e := rfl
theorem jsm_pure_eq {α : Type} (a : α) : (pure a : JsM α) = .ok a := rfl
```

Without the first, a successful construction cannot refute a guard it passed. This fails outright, by `simp` and by `grind` alike:

```lean
example (e : JsError) (k : Unit → JsM Nat) (n : Nat) :
    ((do throw e; k ()) : JsM Nat) = .ok n → False := by
  grind
```

**3. There is no bridge from `Float.isFinite` to bounds.** `grep -r isFinite engines/thales/Js engines/thales/ThalesDsl` returns nothing. Every bound bridge in `Js/Norm.lean` is written for the `Float.beq x floatInf = false` and `sameValue x floatNaN = false` guard spelling — the `Infinity`/`NaN` comparisons this issue's design assumed the constructor would use. `Number.isFinite` emits `Float.isFinite`, so the pinned bridges never fire:

```lean
example (x : Float) (h : Float.isFinite x = true) : -floatInf < x ∧ x < floatInf := by
  grind
-- `grind` failed
```

This is the one genuinely new proof the issue needs. `Float.isFinite x` is `x.toModel.isFinite`, so it belongs in `FloatFacts` with a restatement and a `grind_pattern` in `Norm.lean`, alongside its `beq`-spelled neighbours.

## With all three supplied, the obligation closes

Verified on the guards-only constructor, with the finiteness bridges stubbed to isolate the question:

```lean
example («p.x» «p.y» «q.x» «q.y» : JsNumber) :
    ∀ (p : TsModel.Pt), TsModel.Pt.construct «p.x» «p.y» = .ok p →
    ∀ (q : TsModel.Pt), TsModel.Pt.construct «q.x» «q.y» = .ok q →
      ((do return Float.le 0 (← TsModel.Pt.distance p q)) : JsM Bool) = pure true := by
  intro p hp q hq
  simp only [TsModel.Pt.construct, jsm_throw_bind, jsm_pure_eq] at hp hq
  split at hp <;> split at hq <;> simp_all <;> grind
```

So the recipe is settled: the three bridges, plus a ladder step that splits constructor-image hypotheses before the closers run. Since the ladder drives tactics through the meta API rather than as scripts (`Meta.simpGoal`, `Meta.Grind.main`), that step is meta code over `Lean.Meta.Split.splitLocalDecl?`, not a `by` block.

**The splitting needs a budget.** The `-0` constructor has three nested `if`s per instance, and splitting both instances unboundedly produces sixteen branches:

```
error: (deterministic) timeout at `whnf`, maximum number of heartbeats (200000) has been reached
```

Bounding that fan-out is real work, not a footnote — which is why it gets its own step ahead of any emission change.

## Consequence for the plan

Items 1 and 2 of this issue were already done. Item 3's prover side is larger than "add an arm to `obligationCommand`": the arm is small, but the obligation it renders does not close without the three bridges and the inversion step above. Item 4 is now nearly free — a class-typed value is already a working method receiver in the walk, and the remaining change is that formula binders enter scope hardcoded as numbers.

The frontend half is otherwise small and located: narrow `classBinderReason` from a blanket refusal to the two honest cases, add a class arm to `lowerBinder` and its schema and decoder, add the `.cls` arm to `obligationCommand`, and add an opaque head to `propSpine` — without which the spine returns no binders, `allBounded` is vacuously true, and both decide rungs spend their budget enumerating an undecidable Float goal before the ladder ever reaches grind.
